US07332501B2
a) Methanesulfonic acid pyrimidin-5-ylmethyl ester
To a mixture of pyrimidin-5-yl-methanol, DMAP and NEt3 was slowly added MsCl at 0° C. and the reaction mixture was stirred at room temperature for 3 h. The reaction mixture was extracted with water and dichloromethane. The organic phase was dried on Na2SO4, filtered and the solvent was evaporated. Silica gel column chromatography (Ethyl acetate/hexane 1:1) gave the title compound in 40% yield.

reactant | pyrimidin-5-yl-methanol | N1=CN=CC(=C1)CO | C5H6N2O
reactant | MsCl | CS(=O)(=O)Cl | CH3ClO2S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NEt3 | CCN(CC)CC | C6H15N
product | Methanesulfonic acid pyrimidin-5-ylmethyl ester | 40% yield | N1=CN=CC(=C1)COS(=O)(=O)C | C6H8N2O3S
